US07544835B2
2-Isopropoxy-3-(3-{[(4-toluidinocarbonyl)oxy]methyl}-phenyl)propanoic acid
Using ethyl 3-[3-(hydroxymethyl)phenyl]-2-isopropoxypropanoate and p-tolylisocyanate, the title compound was obtained in the same manner as described in Example 148.

reactant | ethyl 3-[3-(hydroxymethyl)phenyl]-2-isopropoxypropanoate | OCC=1C=C(C=CC1)CC(C(=O)OCC)OC(C)C | C15H22O4
reactant | p-tolylisocyanate | C1(=CC=C(C=C1)N=C=O)C | C8H7NO
product | 2-Isopropoxy-3-(3-{[(4-toluidinocarbonyl)oxy]methyl}-phenyl)propanoic acid | C(C)(C)OC(C(=O)O)CC1=CC(=CC=C1)COC(=O)NC1=CC=C(C=C1)C | C21H25NO5
